US07557211B2
A4a.1: (S)—N-[1-(3-Bromophenyl)ethyl]Acetamide
Commercially available (S)-1-(3-bromophenyl)ethanamine (1.0 g, 5 mmol) was dissolved in THF (20 mL). Pyridine (0.5 mL) and acetic anhydride (0.51 g, 5 mmol) were added and the reaction mixture allowed to stir at room temperature overnight. The solvent was removed under reduced pressure to provide A4a.1 (1.23 g) as a clear yellowish liquid. (M+H)+=242.15, 244.16.

reactant | (S)-1-(3-bromophenyl)ethanamine | 5 mmol, 1.0 g | BrC=1C=C(C=CC1)[C@H](C)N | C8H10BrN
reactant | Pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 5 mmol, 0.51 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (S)—N-[1-(3-Bromophenyl)ethyl]Acetamide | BrC=1C=C(C=CC1)[C@H](C)NC(C)=O | C10H12BrNO
